US07504401B2
3,5-Dibromo-benzoic acid and 2-amino-pyridin-3-ol were condensed to give 2-(3,5-dibromo-phenyl)-oxazolo[4,5-b]pyridine using the conditions of Clark, R. L., et al., J. Med. Chem. 21: 1158-62 (1978). This compound was converted to N-(3-bromo-5-oxazolo[4,5-b]pyridin-2-yl-phenyl)-acetamide as described in Example 82. Conversion to N-[3-(1H-Indol-4-yl)-5-oxazolo[4,5-b]pyridin-2-yl-phenyl]-acetamide was carried out as described in Example 75. 1H NMR (400 MHz, CD3OD): δ 8.39-8.43 (m, 2H), 8.28 (d, J=1.4 Hz, 1H), 8.15 (t, J=1.7 Hz, 1H), 7.95 (dt, J=4.7, 2.7 Hz, 1H), 7.38-7.41 (m, 1H), 7.30-7.34 (m, 1H), 7.25 (d, J=3.1 Hz, 1H), 7.14-7.17 (m, 2H), 6.67 (d, J=3.1 Hz, 1H), 2.13 (s, 3H).

reactant | 3,5-Dibromo-benzoic acid | BrC=1C=C(C(=O)O)C=C(C1)Br | C7H4Br2O2
reactant | 2-amino-pyridin-3-ol | NC1=NC=CC=C1O | C5H6N2O
product | 2-(3,5-dibromo-phenyl)-oxazolo[4,5-b]pyridine | BrC=1C=C(C=C(C1)Br)C=1OC=2C(=NC=CC2)N1 | C12H6Br2N2O
